// ROIC DT Integrator TIA Testbench
// Sebastian Claudiusz Magierowski — original May 15 2023, standalone port May 20 2026
//
// Derived from SM_ROIC/tb_TIA1/schematic (Cadence IC06.18.020).
//
// Topology: sm_gm_so-based integrate-and-dump TIA.
//   Reset phase  (clk > vth=0.8V, duration (1-Ki)*Ts): SWrst closes, Cf shorted,
//     opTIA and ipTIA both settle to ~700 mV (virtual ground = Vtrans).
//   Integrate phase (clk = 0, duration Ki*Ts): SWrst open, Ii2 drains current
//     from ipTIA, gm_so integrates charge onto Cf, opTIA ramps upward.
//
//                ,------Cf------|
//                |--SWrst(clk)--|
//                |              |
// Ii2 ----,      |              |
// Cm -- ipTIA --- -gm_so \      |
//                |        \     |
//                         X -- opTIA -- Cload
//                        /
// Vtrans -- + gm_so /
// (net7=700mV)
//
// Key bias: Vtrans=700mV sets virtual ground; Vop=900mV sets output quiescent.
// Current convention: Ii2 drains current from ipTIA → output swings upward.
//
// Key design variables:
//   Integrator : Cf, Cm, Ki
//   Clock      : fs (period Ts=1/fs)
//   Bias       : Vdd, Vtrans (virtual gnd ref), Vop (output quiescent)
//   Stimulus   : PWL current ramp 0→200pA (Ts/10 to Ts), constant 200pA after

simulator lang=spectre
global 0 vdd!

ahdl_include "../../../../models/verilogA/sm_gm_so.va"
ahdl_include "../../../../models/verilogA/sm_sw_no.va"

// -----------------------------------------------------------------------
// Parameters
// -----------------------------------------------------------------------
parameters \
    Cm=5p  Cf=20f  Ki=625m              \
    fs=1k  Ts=1/fs  stopTime=10*Ts      \
    Vdd=1.5  Vtrans=700m  Vop=900m

// -----------------------------------------------------------------------
// Supply and bias sources
// -----------------------------------------------------------------------
Vdd1   (vdd! 0)  vsource dc=Vdd    type=dc
Vtrans (net7 0)  vsource dc=Vtrans type=dc
Vop    (net019 0) vsource dc=Vop   type=dc

// -----------------------------------------------------------------------
// Input current: ramps from 0 to 200 pA between Ts/10 and Ts, constant after
// -----------------------------------------------------------------------
Ii2 (0 ipTIA) isource type=pwl wave=[ (Ts/10) 0 Ts -200p ]

// -----------------------------------------------------------------------
// DT integrator: gm_so + Cf + reset switch + parasitics
// -----------------------------------------------------------------------
Cm1    (ipTIA 0)         capacitor c=Cm
Cf1    (opTIA ipTIA)     capacitor c=Cf
Cload  (opTIA 0)         capacitor c=1f
Gm1    (opTIA net7 ipTIA vdd! 0 net019) sm_gm_so \
    GBW=10M gain=50 EFF=10 Rin=1e16 Vin_off=0 \
    Iout_max=200u slew_rate=10e6 Vsoft=0.1
SWrst  (ipTIA opTIA clk) sm_sw_no vth=0.8 ron=1 roff=10G \
    tconv=0 trise=1n tfall=1n slack=1n vtol=10m

// -----------------------------------------------------------------------
// Reset clock: high = reset (SWrst closed), low = integrate
// -----------------------------------------------------------------------
Vclk (clk 0) vsource type=pulse val0=0 val1=Vdd \
    period=Ts delay=Ts/10 rise=Ts/100 fall=Ts/100 width=(1-Ki)*Ts

// -----------------------------------------------------------------------
// Simulation
// -----------------------------------------------------------------------
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 \
    temp=27 tnom=27 maxnotes=5 maxwarns=5

tran1 tran stop=stopTime errpreset=conservative annotate=status

save opTIA ipTIA clk
saveOptions options save=selected
